Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___
Exploratory laparotomy and ___ patch

 
History of Present Illness:
Interview is conducted with presence of family members
translating for the patient who only speaks ___. This is a
pleasant ___ yo gentleman who comes with a ___ h/o epigastric 
pain
not associated with nausea, vomiting, diarrhea, fevers or 
chills.
The pain started gradually during the day yesterday and 
increased
in severity overnight which prompted him to come to the 
emergency
room. He does endorse some constipation in the past couple of
days for which he took miralax. Denies melena of BRBPR.
Had a colonoscopy in ___ which revealed diverticulosis.Denies
h/o gastritis or PUD. Never had an EGD.

 
Past Medical History:
1) Hypertension
2) Endovascular stent repair of AAA ___
3) R eye cataract extraction ___ R eye ptegygium removal ___ L eye cataract extraction ___

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Temp 96.3   HR 82   BP 122/61   RR 18   O2 sat 100% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, no M/R/G
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, very TTP diffusely. Mildly distended.
Ext: No ___ edema, ___ warm and well perfused. Palpable ___ b/l

 
Pertinent Results:
CBC:
___ 09:05AM BLOOD WBC-9.9 RBC-3.51* Hgb-10.5* Hct-32.0* 
MCV-91 MCH-29.9 MCHC-32.7 RDW-13.6 Plt ___
___ 04:40AM BLOOD WBC-16.2*# RBC-3.02* Hgb-9.3* Hct-27.2* 
MCV-90 MCH-30.9 MCHC-34.3 RDW-14.1 Plt ___
___ 09:50AM BLOOD WBC-13.8* RBC-2.72* Hgb-8.6* Hct-24.7* 
MCV-91 MCH-31.5 MCHC-34.7 RDW-13.8 Plt ___
___ 06:35AM BLOOD WBC-7.8 RBC-2.67* Hgb-8.5* Hct-25.0* 
MCV-94 MCH-31.8 MCHC-34.0 RDW-14.0 Plt ___
___ 09:05AM BLOOD Neuts-85.0* Lymphs-12.7* Monos-1.6* 
Eos-0.4 Baso-0.2

Chemistry:
___ 09:05AM BLOOD Glucose-206* UreaN-97* Creat-2.0* Na-136 
K-4.7 Cl-102 HCO3-20* AnGap-19
___ 05:12AM BLOOD Glucose-146* UreaN-52* Creat-1.2 Na-137 
K-3.8 Cl-106 HCO3-21* AnGap-14
___ 06:35AM BLOOD Glucose-112* UreaN-33* Creat-1.1 Na-140 
K-4.2 Cl-108 HCO3-21* AnGap-15
___ 05:33PM BLOOD Calcium-7.4* Phos-3.4 Mg-2.2
___ 06:35AM BLOOD Calcium-8.5 Phos-3.1 Mg-2.1

Imaging:
___: CTA abd/pelvis
IMPRESSION: 1. Intraperitoneal free air. This is most likely the 
result of a perforated duodenal ulcer.  2. Cholelithiasis, 
without evidence of cholecystitis. 3. Diverticulosis, without 
evidence of acute diverticulitis.
4. Aortic endograft is stable in appearance, without evidence of 
leak. The 
abdominal aneurysm sac has decreased in size compared with ___. 
There is 
extensive atherosclerotic disease. 5. Probable liver hemangioma 
in segment II. 

 
Brief Hospital Course:
Mr. ___ was admitted to the acute care surgery service for a 
perforated duodenal ulcer. He went to the OR on ___ for 
exploratory laparotomy and ___ patch repair. He was stable 
post-operatively. 

Neuro: His pain was controlled by morphine and when taking PO he 
was switched to oxycodone and tramadol. He was intermittently 
confused on POD 1 and 2 and agitated overnight. His mental 
status slowly improved during his hospital course and he was 
awake and conversant during the day. 

CV: He remained cardiovascularly and pulmonary-wise stable and 
vitals were monitored closely during his hospitalization. Pre op 
he took Lisinopril/HCTZ for BP control but during his stay his 
blood pressure was in the 100-120/70 range therefore he was only 
restarted on Hydrochlorothiazide and remained with a stable BP.

GI: He is s/p ___ patch repair. He was started on a PPI on 
POD1. He remained NPO and on IV fluids until POD4 when he was 
advanced to clear liquid diet, which he tolerated. He was 
advanced to a regular diet on POD5 and tolerated that well also. 
H.Pylori serum antibody was sent on POD1 and returned positive. 
He was started on h.pylori treatment with clarithromycin and 
amoxicillin on ___ for a 2 week course. 

GU: His foley was discontinued on POD 3. He had some mild 
urinary retention and a straight catheter was used at first. He 
was given tamsulosin for his urinary retention. Urine Cx on 
___ showed no growth. 

ID: He was initially given Zosyn for his perforated ulcer. He 
was switched to ceftriaxone/flagyl on POD1 for empiric coverage. 
This was then switched to clarithro/amox for h.pylori on 
___. 

The Physical Therapy service recommended a short term rehab stay 
prior to returning home to help increase his mobility and 
endurance.  He was discharged on ___.
 
Medications on Admission:
lisinopril/HCTZ ___ daily, ASA 81

 
Discharge Medications:
1. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO DAILY (Daily).  
2. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours). 
Tablet, Delayed Release (E.C.)(s) 
3. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
4. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: ___ puffs Inhalation Q6H (every 6 hours).  
5. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day) as needed for pain.  
6. oxycodone 5 mg Tablet Sig: 0.5 Tablet PO Q4H (every 4 hours) 
as needed for pain.
Disp:*42 Tablet(s)* Refills:*0*
7. clarithromycin 250 mg/5 mL Suspension for Reconstitution Sig: 
Ten (10) mL PO Q12H (every 12 hours): thru ___.
Disp:*280 mL* Refills:*0*
8. amoxicillin 250 mg/5 mL Suspension for Reconstitution Sig: 
Twenty (20) mL PO Q12H (every 12 hours): thru ___.
Disp:*560 ml* Refills:*0*
9. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
10. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
11. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
12. Ecotrin Low Strength  Oral

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Perforated duodenal ulcer
2. Acute blood loss anemia
3. + H Pylori

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the acute care surgery service for a 
perforated ulcer which required surgery for repair. You have 
been doing well but you still need to improve your mobility 
prior to returning home therefore you will spend some time in 
rehab prior to returning home.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:

*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.

*Avoid swimming and baths until your follow-up appointment.

*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.

*Your staples will be removed at rehab.

 
Followup Instructions:
___